US08211904B2
Step 1: methyl 3-(1-methylprop-2-en-1-yl)benzoate
To a solution of methyl 3-bromobenzoate (1.81 g, 8.42 mmol) in DMF (50 mL) was added (E)-4-(tributylstannyl)but-2-ene (Weigand, S.; Bruckner, R. Synthesis, 1995, 475) (3.48 g, 10.1 mmol) followed by tetrakis(triphenylphoshine) palladium(0) (0.49 g, 0.42 mmol). After stirring 80° C. overnight the reaction mixture was poured into H2O (500 mL), extracted with ethyl acetate (three times), dried over MgSO4 and concentrated under vacuum to afford the desired product. Purification by silica gel chromatography (5% EtOAc/hexanes) afforded the desired product.

reactant | methyl 3-bromobenzoate | 8.42 mmol, 1.81 g | BrC=1C=C(C(=O)OC)C=CC1 | C8H7BrO2
reactant | (E)-4-(tributylstannyl)but-2-ene | 10.1 mmol, 3.48 g | C(CCC)[Sn](C/C=C/C)(CCCC)CCCC
reactant | H2O | 500 mL | O | H2O
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
product | methyl 3-(1-methylprop-2-en-1-yl)benzoate | CC(C=C)C=1C=C(C(=O)OC)C=CC1 | C12H14O2
